US05512562
2- 2-(3-Methoxy-2-nitrophenyl)ethylamino!-1-phenylethanol was synthesized in analogy to example 1D from 2-(3-methoxy-2-nitrophenyl)-ethylamine and phenyloxirane. White crystalline powder. M.p. 99°-101° C.

reactant | 2-(3-methoxy-2-nitrophenyl)-ethylamine | COC=1C(=C(C=CC1)CCN)[N+](=O)[O-] | C9H12N2O3
reactant | phenyloxirane | C1(=CC=CC=C1)C1OC1 | C8H8O
product | 1-phenylethanol | C1(=CC=CC=C1)C(C)O | C8H10O
